US07071201B2
Example 154: Synthesis of 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-(cyclopropylcarbamoylmethyl)indoline
1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-carboxymethylindoline (250 mg), 1,1′-carbonyldiimidazole (130 mg) and cyclopropylamine (45 mg) were treated as in Example 151 to give the title compound (110 mg) as a white powder (yield: 40%).

reactant | 1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-carboxymethylindoline | 250 mg | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CC(=O)O)C=C1 | C23H27FN2O2
reactant | 1,1′-carbonyldiimidazole | 130 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | cyclopropylamine | 45 mg | C1(CC1)N | C3H7N
product | 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-6-(cyclopropylcarbamoylmethyl)indoline | 110 mg, yield: 40% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CC(NC2CC2)=O)C=C1 | C26H32FN3O
